US07115615B2
6-methoxy-4-(2,3-methylenedioxyanilino)-7-(3-morpholinopropoxy)quinazoline
A mixture of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (0.1 g), 2,3-methylenedioxyaniline (0.048 g), pentan-2-ol (5 ml) and a solution of hydrogen chloride in isopropanol (6M, 4 drops) was stirred and heated to 100° C. for 5 hours. The resultant mixture was cooled to ambient temperature and the precipitate was isolated by filtration, washed with pentan-2-ol and dried under vacuum. There was thus obtained the title compound (0.138 g) as a dihydrochloride salt; NMR Spectrum: (DMSOd6 and CF3COOD) 2.35 (m, 2H), 2.5 (m, 2H), 3.15 (m, 2H), 3.3 (m, 2H), 3.55 (d, 2H), 3.8 (t, 2H), 4.05 (s, 3H), 4.35 (t, 2H), 6.1 (s, 2H), 7.0 (m, 3H), 7.4 (s, 1H), 8.2 (s, 1H), 8.85 (s, 1H); Mass Spectrum: M+H+ 439; Elemental Analysis: Found C, 52.8; H, 5.56; N, 10.68. C23H26N4O5 2HCl 0.5H2O requires C, 53.08; H, 5.62; N, 10.77%.

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.1 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 2,3-methylenedioxyaniline | 0.048 g | C1OC2=C(N)C=CC=C2O1 | C7H7NO2
reactant | pentan-2-ol | 5 ml | CC(CCC)O | C5H12O
reactant | hydrogen chloride | Cl | ClH
catalyst | isopropanol | 6M, 4 drops | C(C)(C)O | C3H8O
product | 6-methoxy-4-(2,3-methylenedioxyanilino)-7-(3-morpholinopropoxy)quinazoline | 0.138 g | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCOCC1)NC1=C2C(=CC=C1)OCO2 | C23H26N4O5
